US04411839
Two grams of 5-cyano-1-(2,4,6-trichloroanilino)-2,4-pyrimidinedione is added to 1.6 ml of 35% formaldehyde in enough 95% formic acid to effect stirring. The mixture is heated to reflux and 95% formic acid is added dropwise until the solid is dissolved. The mixture is refluxed overnight, after which 3.2 ml of aqueous formaldehyde is added and refluxing is continued for another 8 hours. The reaction mixture is poured into water and the precipitate is filtered to yield the compound 5-cyano-1-(N-hydroxymethyl-2,4,6-trichloroanilino)-2,4-pyrimidinedione, m.p.>300°.

reactant | 5-cyano-1-(2,4,6-trichloroanilino)-2,4-pyrimidinedione | Two grams | C(#N)C=1C(NC(N(C1)NC1=C(C=C(C=C1Cl)Cl)Cl)=O)=O | C11H5Cl3N4O2
reactant | formaldehyde | 1.6 ml | C=O | CH2O
reactant | formaldehyde | 3.2 ml | C=O | CH2O
reactant | water | O | H2O
solvent | formic acid | C(=O)O | CH2O2
product | 5-cyano-1-(N-hydroxymethyl-2,4,6-trichloroanilino)-2,4-pyrimidinedione | C(#N)C=1C(NC(N(C1)N(C1=C(C=C(C=C1Cl)Cl)Cl)CO)=O)=O | C12H7Cl3N4O3
